US04473586
25 g. of 7-methoxy-1,2,3,4-tetrahydro-1-naphthalenone is reacted with trimethylsilylcyanide and then with lithium aluminum hydride as described in Example 1 to yield 28 g. of 1-aminomethyl-1-hydroxy-7-methoxy-1,2,3,4-tetrahydronaphthalene. This compound is treated with HCl in ethanol as described in Example 3 to give 1-aminomethyl-7-methoxy-3,4-dihydronaphthalene HCl; m.p. 174°-175° C.

reactant | 7-methoxy-1,2,3,4-tetrahydro-1-naphthalenone | COC1=CC=C2CCCC(C2=C1)=O | C11H12O2
reactant | trimethylsilylcyanide | C[Si](C)(C)C#N | C4H9NSi
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-aminomethyl-1-hydroxy-7-methoxy-1,2,3,4-tetrahydronaphthalene | NCC1(CCCC2=CC=C(C=C12)OC)O | C12H17NO2
reactant | HCl | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1-aminomethyl-7-methoxy-3,4-dihydronaphthalene HCl | Cl.NCC1=CCCC2=CC=C(C=C12)OC | InChI=1S/C12H15NO.ClH/c1-14-11-6-5-9-3-2-4-10(8-13)12(9)7-11;/h4-7H,2-3,8,13H2,1H3;1H
